US05070089
Methyl 4-(5,6-dimethoxy-3-methyl-1,4-benzoquinonylmethyl)-1-piperazinecarbodithioate (Com. No. 118)
To 700 mg (1.88 mmol.) of methyl 4-(2,5-dihydroxy-3,4-dimethoxy-6-methylbenzyl)-1-piperazinecarbodithioate were added 7 ml of 1-N hydrochloric acid and 17 ml of methanol. The mixture was chilled with ice, and to the mixture was dropwise added a solution of 1.76 g (7.52 mmol.) of FeCl3.6H2O in 5 ml of water. The resulting homogeneous red-colored solution was stirred for 30 min. and placed under reduced pressure at a temperature of lower than 50° C. to distill off methanol. To the residue was added 50 ml of ethyl acetate, and further added portionwise a saturated aqueous sodium hydrogen carbonate solution to adjust the solution to pH 10. A precipitated brownish red solid was removed by filtration. Thus obtained organic filtrate was washed with water and a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and placed under reduced pressure to distill off the solvent. The residue was crystallized from ethanol, and collected by filtration, to give 540 mg of the desired compound as an orange-brown crystalline powder, m.p. 115°-116° C., yield 77.6%.

reactant | methyl 4-(2,5-dihydroxy-3,4-dimethoxy-6-methylbenzyl)-1-piperazinecarbodithioate | 1.88 mmol, 700 mg | OC1=C(CN2CCN(CC2)C(=S)SC)C(=C(C(=C1OC)OC)O)C | C16H24N2O4S2
reactant | hydrochloric acid | Cl | ClH
reactant | methanol | 17 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | Methyl 4-(5,6-dimethoxy-3-methyl-1,4-benzoquinonylmethyl)-1-piperazinecarbodithioate | 540 mg, yield 77.6% | COC=1C(C(=C(C(C1OC)=O)CN1CCN(CC1)C(=S)SC)C)=O | C16H22N2O4S2
